US09376422B2
Step 1: Synthesis of methyl 3,4,6-trichloropyridine-2-carboxylate
To a stirred solution of methyl 3,6-dichloropyridine-2-carboxylate (0.96 g, 4.66 mmol) in TFA (5 ml) was added hydrogen peroxide (30% w/w aqueous solution, 435 μl, 2.5 mmol) and the reaction mixture was heated at 60° C. for 20 h. The reaction mixture was then cooled and slowly poured onto saturated K2CO3 solution (100 ml), followed by extraction of the aqueous layer with EtOAc (2×200 ml), washing of the combined organic phases with brine (2×50 ml), drying (Na2SO4) and evaporation. The desired 3,6-dichloro-2-(methoxycarbonyl)pyridin-1-ium-1-olate was used crude in the next stage of the synthesis without any further purification. To the crude 3,6-dichloro-2-(methoxycarbonyl)pyridin-1-ium-1-olate (˜70% purity, 2.40 g, 7.7 mmol) was added POCl3 (3.5 ml, 38 mmol) and the solution was heated to 100° C. for 4 h. After cooling the POCl3 was removed in vacuo to give a white solid which was chromatographed over silica gel eluting with 0% to 10% of EtOAc in heptane to afford the title compound as colourless needles (340 mg, 30% over two steps). LC-MS 100%, 2.20 min (3.5 minute LC-MS method), m/z=239.8/241.7, 1H NMR (500 MHz, Chloroform-d) δ 7.51 (1H, s), 3.92 (3H, s).

reactant | methyl 3,6-dichloropyridine-2-carboxylate | 4.66 mmol, 0.96 g | ClC=1C(=NC(=CC1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | hydrogen peroxide | 2.5 mmol, 435 μl | OO | H2O2
reactant | K2CO3 | 100 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | POCl3 | 38 mmol, 3.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 3,4,6-trichloropyridine-2-carboxylate | 340 mg, 30% | ClC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4Cl3NO2
